US08389511B2
tert-Butyl (3R)-3-[{[4-(2-{benzyl[(benzyloxy)carbonyl]amino}ethyl)-2-methyl-3-oxo-2-[(tetrahydro-2H-pyran-2-yloxy)methyl]-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}-(isopropyl)amino]piperidine-1-carboxylate
To a solution of tert-butyl (3R)-3-[{[4-(2-{benzyl[(benzyloxy)carbonyl]amino}ethyl)-2-(hydroxymethyl)-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate in methylene chloride (4.0 ml) were added 3,4-dihydro-2H-pyran (86 μl) and pyridinium p-toluenesulfonate (6.3 mg), and the mixture was stirred at room temperature for 12 hours. To the reaction mixture was added water (3 ml), and the mixture was extracted with methylene chloride (5 ml). The organic layer was washed with water and a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, concentrated under reduced pressure to give the title compound (440 mg).

reactant | tert-butyl (3R)-3-[{[4-(2-{benzyl[(benzyloxy)carbonyl]amino}ethyl)-2-(hydroxymethyl)-2-methyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | C(C1=CC=CC=C1)N(CCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(C)CO)=O)C(=O)OCC2=CC=CC=C2 | C42H51F3N4O8
reactant | 3,4-dihydro-2H-pyran | 86 μl | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 6.3 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | 3 ml | O | H2O
solvent | methylene chloride | 4.0 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl (3R)-3-[{[4-(2-{benzyl[(benzyloxy)carbonyl]amino}ethyl)-2-methyl-3-oxo-2-[(tetrahydro-2H-pyran-2-yloxy)methyl]-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}-(isopropyl)amino]piperidine-1-carboxylate | 440 mg | C(C1=CC=CC=C1)N(CCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(COC2OCCCC2)C)=O)C(=O)OCC2=CC=CC=C2 | C47H59F3N4O9
